US07211694B2
5.00 g of 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile were dissolved in 50 ml of tetrahydrofuran and, while cooling with an ice bath, 19.4 ml of two molar phenylmagnesium chloride solution in tetrahydrofuran were added dropwise under a nitrogen atmosphere. After stirring overnight at room temperature, cooling was again carried out in an ice bath, and 25 ml of cold ammonium chloride solution (20 percent by weight) were added. The phases were separated and extracted twice using 80 ml of diethyl ether each time, the combined organic phases were extracted three times using 60 ml of hydrochloric acid (5 percent by weight) each time, the combined acidic extracts were rendered weakly alkaline (pH 8–9) with aqueous ammonia solution (25 percent by weight), extraction was carried out three times using 80 ml of diethyl ether each time, and the combined organic extracts were dried over sodium sulfate, filtered and concentrated. The resulting yellow oil (4.15 g) was separated on silica gel with diethyl ether/hexane (V:V=1:1). 1.83 g of the non-polar and 0.38 g of the polar diastereoisomer of (4-benzyloxy-1-phenyl-cyclohexyl)dimethylamine were obtained in the form of a yellow solid and a yellow resin, respectively. 1.48 g of the non-polar diastereoisomer were dissolved in 11.8 ml of 2-butanone; 47 μl of water and 665 μl of chlorotrimethylsilane were added, and stirred overnight. The precipitated hydrochloride was filtered off, washed with diethyl ether and dried under a high vacuum. 1.55 g of the hydrochloride of the non-polar diastereoisomer of (4-benzyloxy-1-phenyl-cyclohexyl)dimethylamine (Example 1) were obtained in the form of a white solid. In an analogous manner, 300 mg of the corresponding hydrochloride (Example 2) were obtained from 379 mg of the polar diastereoisomer.

reactant | 4-benzyloxy-1-dimethylaminocyclohexanecarbonitrile | 5.00 g | C(C1=CC=CC=C1)OC1CCC(CC1)(C#N)N(C)C | C16H22N2O
reactant | phenylmagnesium chloride | two molar, 19.4 ml | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4-benzyloxy-1-phenyl-cyclohexyl)dimethylamine | C(C1=CC=CC=C1)OC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C21H27NO
